* \\wsl.localhost\Ubuntu\home\minstrel\kinetika\project_mayhem\power_electronics\equivalent_circuit\resonant_H_bridge.asc
V1 N001 0 SINE(0 60 486000) AC 40
C1 N002 P001 50n
L1 N002 N005 1.70µ
L2 0 N003 1512µ
C2 0 N004 1.6p
R1 N004 N003 11
R2 0 N004 187500
Lw1 N001 P001 1.1µ
Lw2 N005 0 1.1µ
Cp 0 N004 100p
K1 L1 L2 0.55
* .ac oct 10000 100000 2000000
.tran 0.001
.backanno
.end
